US06979741B2
(3R)-(2,6-Diphenyl-pyridin-4-yl)-[3-(piperazine-1-carbonyl)-[1,4′]bipiperidinyl-1′-yl]-methanone
(3R)-4-[1′-(2,6-Diphenyl-pyridine-4-carbonyl)-[1,4′]bipiperidinyl-3-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester (1.78 g, 2.79 mmol) was dissolved in ethyl acetate (25 mL) and cooled to −78° C. under nitrogen. Hydrogen chloride was passed in for several minutes and formation of a white precipitate was observed which redissolved almost immediately. When the solution was saturated with hydrogen chloride it was allowed to warmed to ambient temperature and after 1 h the solvent was evaporated in a stream of dry nitrogen, passing the evolved gasses to a water scrubber. A loose yellowish powder remained (2.02 g, >100% calculated as trishydrochloride). This was dissolved in water, basified by the addition of 2M sodium hydroxide (to pH 13.5) and extracted with dichloromethane (×3). The organic layer was dried over anhydrous sodium sulfate and evaporated to dryness to give the title compound as a powdery foam (1.37 g, 91%).

reactant | (3R)-4-[1′-(2,6-Diphenyl-pyridine-4-carbonyl)-[1,4′]bipiperidinyl-3-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester | 2.79 mmol, 1.78 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)[C@H]1CN(CCC1)C1CCN(CC1)C(=O)C1=CC(=NC(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C38H47N5O4
reactant | Hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | (3R)-(2,6-Diphenyl-pyridin-4-yl)-[3-(piperazine-1-carbonyl)-[1,4′]bipiperidinyl-1′-yl]-methanone | 1.37 g, 91% | C1(=CC=CC=C1)C1=NC(=CC(=C1)C(=O)N1CCC(CC1)N1C[C@@H](CCC1)C(=O)N1CCNCC1)C1=CC=CC=C1 | C33H39N5O2
